US08026257B2
Phosphorus oxychloride (3.11 mL, 33.4 mmol) was added dropwise to a 0° C sample of DMF (30 mL). The reaction was stirred 30 min at 0° C., then 7-bromo-5-chloro-1H-indole (7.0 g, 30.4 mmol) in DMF (5 mL)was added and the reaction was warmed to ambient temperature and stirred 20 hours. Ice water (300 mL) was added, and the resulting thick solid was filtered. The product was detected by TLC in both filtrate and cake. Cake and filtrate were combined, and sodium hydroxide (10N) was added until most solids disappeared, then the mixture was extracted with ethyl acetate (4×100 mL). The organic layers were dried with MgSO4 and evaporated to a solid that weighed 10.5 g. The residue was dissolved in 400 mL boiling ethyl acetate, the insoluble material was filtered away and the filtrate was evaporated. 7-bromo-5-chloro-1H-indole-3-carbaldehyde (6.45 g, 24.95 mmol, 82% yield) was obtained as an off-white solid. 1H-NMR (CDCl3, 400 MHz) δ 9.99 (s, 1H), 8.35 (s, 1H), 8.32 (s, 1H), 7.92 (s, 1H), 7.47 (d, J=2.0 Hz, 1H). LC/MS (HPLC method 4): tR=2.87 min, 257.91(MH)+.

reactant | Phosphorus oxychloride | 33.4 mmol, 3.11 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-bromo-5-chloro-1H-indole | 30.4 mmol, 7.0 g | BrC=1C=C(C=C2C=CNC12)Cl | C8H5BrClN
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 7-bromo-5-chloro-1H-indole-3-carbaldehyde | 24.95 mmol, 6.45 g, 82% yield | BrC=1C=C(C=C2C(=CNC12)C=O)Cl | C9H5BrClNO
